US07037927B2
4-(2-pyridinyl)benzoic Acid
2-Bromopyridine (1.26 g, 7.97 mmol), 4-carboxyphenylboronic acid (1.32 g, 7.95 mmol), and Pd(PPh3)4 (0.48 g, 0.42 mmol) were stirred at 90° overnight in CH3CN (40 mL) and 0.4 M Na2CO3 solution (40 mL, 16 mmol). After this time, the mixture was filtered hot, and the filtrate was concentrated to half-volume under reduced pressure. The remaining liquid was washed with CH2Cl2 (2×20 mL) and then acidified to pH 1 with concentrated HCl. The resulting precipitate was collected by filtration, washed with H2O, and allowed to air-dry to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ 8.74 (m, 1H), 8.19–8.23 (m, 2H), 7.99–8.12(m, 4H), 7.47–7.52 (m, 1H); MS (ESI+) m/z 200 (M+H)+.

reactant | 2-Bromopyridine | 7.97 mmol, 1.26 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 4-carboxyphenylboronic acid | 7.95 mmol, 1.32 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | Na2CO3 | 16 mmol, 0.4 M, 40 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 40 mL | CC#N | C2H3N
catalyst | Pd(PPh3)4 | 0.42 mmol, 0.48 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-pyridinyl)benzoic Acid | N1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
